US04118559
To a slurry of 1.0 mole of sodium hydride in 1 liter of N,N-dimethylformamide is added 1.0 mole of diethyl benzylphosphonate. The reaction mixture is stirred for 1 hour and then a solution of 1.0 mole of 3-methoxyisophthalaldehydic acid methyl ester in a minimal amount of dimethylformamide is added. The reaction mixture is stirred for several hours and is then added to ether-water. The ether extract is washed several times with water, dried over magnesium sulfate and evaporated to a residue. The residue is purified via crystallization from hexane to yield 5-methoxy-3-stilbene carboxylic acid methyl ester. The free acid is obtained by refluxing a solution of 1.0 mole of the methyl ester in one liter of 1N methanolic sodium hyroxide for 4-5 hours. The reaction mixture is evaporated to a residue which is added to ethyl acetate. The ethyl acetate solution is extracted with several portions of water. The combined aqueous extract is neutralized with 1N hydrochloric acid and extracted with several portions of ethyl acetate. This organic extract is dried over magnesium sulfate and evaporated to a residue. The residue is purified by crystallization from hexane to yield 5-methoxy-3-stilbene carboxylic acid.

reactant | sodium hydride | 1.0 mole | [H-].[Na+]
reactant | diethyl benzylphosphonate | 1.0 mole | C(C1=CC=CC=C1)P(OCC)(OCC)=O | C11H17O3P
reactant | 3-methoxyisophthalaldehydic acid methyl ester | 1.0 mole | COC(C=1CC(C=O)(C=CC1)OC)=O | C10H12O4
reactant | N,N-dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | 5-methoxy-3-stilbene carboxylic acid methyl ester | COC(=O)C=1C=C(C=C(C1)OC)C=CC1=CC=CC=C1 | C17H16O3
